US07279473B2
4-[6-(2-Chlorophenyl)pyrazolo[1,5-b]pyridazin-3-yl]-N-cyclopropyl-2-pyrimidinamine
To a solution of 3-[2-(cyclopropylamino)-4-pyrimidinyl]pyrazolo[1,5-b]pyridazin-6-yl trifluoromethanesulfonate (21.0 mg, 0.08 mmol) in DMF (1 mL) was added Pd(PPh3)2Cl2 (5 mg, 0.007 mmol), 2-chlorophenyl boronic acid (15 mg, 0.096 mmol), and Na2-CO3 (21.0 mg in 0.5 mL water). The reaction mixture was heated at an oil bath temperature of 100° C. for about 12 hours. The mixture was cooled to RT and water (20 mL) was added. The aqueous layer was washed with EtOAc (3×50 mL). The combined organic layers were dried (MgSO4) and concentrated in vacuo and purified by silica-gel column chromatography (30% EtOAc/hexanes) to give the title compound as a brown solid (15 mg, 55%). 1H-NMR (300 MHz, CDCl3) δ 9.14 (d, 1H, J=9.2 Hz), 8.52 (s, 1H), 8.32 (d, 1H, J=5.3 Hz), 7.74-7.71 (m, 1H), 7.56-7.52 (m, 2H), 7.46-7.42 (m, 2H), 5.61 (bs, 1H), 2.88 (m, 1H), 0.89 (m, 2H), 0.66 (m, 2H); MS (ESI) (M+H)+ 363.

reactant | 3-[2-(cyclopropylamino)-4-pyrimidinyl]pyrazolo[1,5-b]pyridazin-6-yl trifluoromethanesulfonate | 0.08 mmol, 21.0 mg | FC(S(=O)(=O)OC=1C=CC=2N(N1)N=CC2C2=NC(=NC=C2)NC2CC2)(F)F | C14H11F3N6O3S
reactant | 2-chlorophenyl boronic acid | 0.096 mmol, 15 mg | ClC1=C(C=CC=C1)B(O)O | C6H6BClO2
reactant | water | 20 mL | O | H2O
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
catalyst | Pd(PPh3)2Cl2 | 0.007 mmol, 5 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 4-[6-(2-Chlorophenyl)pyrazolo[1,5-b]pyridazin-3-yl]-N-cyclopropyl-2-pyrimidinamine | 15 mg, 55% | ClC1=C(C=CC=C1)C=1C=CC=2N(N1)N=CC2C2=NC(=NC=C2)NC2CC2 | C19H15ClN6
